US06703214B2
a) Synthesis of N-(2,4-dinitrophenyl)ethanolamine
A mixture of 3.0 g of 2,4-dinitrofluorobenzene (16.12 mmol, 1 eq) and 1.17 ml ethanolamine (19.34 mmol, 1.2 eq) in acetonitrile (30 ml) with 3.56 g of K2CO3 (25.79 mmol, 1.6 eq) was heated at 65° C. overnight. The reaction mixture became red. The solvent was removed under reduced pressure. The residue was diluted in 1N Na2CO3 and extracted with ethyl acetate (5×50 ml). The combined organic layer was washed with saturated NaCl (3×20 ml), dried over MgSO4 and concentrated under reduced pressure. To this orange solution was added ethanol (20 ml) and the mixture was heated at 80° C. until dissolution was complete. Distilled water (20 ml) was added and the solution was cooled to room temperature over a period of 1 hour. The yellow solid which crystallized was collected by filtration, washed with 30/70:ethanol/water and then distilled water (2×30 ml). The solid was dried by lyophilization.

reactant | 2,4-dinitrofluorobenzene | 16.12 mmol, 3.0 g, 1 eq | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3FN2O4
reactant | ethanolamine | 19.34 mmol, 1.17 ml, 1.2 eq | C(O)CN | C2H7NO
reactant | K2CO3 | 25.79 mmol, 3.56 g, 1.6 eq | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | N-(2,4-dinitrophenyl)ethanolamine | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])NCCO | C8H9N3O5
